US07498068B2
PMDA/4-ABA, DAHOB (10)
20.94 g (0.096 mol) of PMDA, 11.00 g (0.09 mol) of 4-ABA and 3.49 g (0.01 mol) of DAHOB were reacted in 201 g of NMP at room temperature for 5 hours to prepare a polyamic acid solution. The polymerization reaction proceeded easily and uniformly, and the molecular weights were measured in the same manner as in Preparation Example 1 and as a result, a solution of a polyamic acid having a number average molecular weight of 7,038 and a weight average molecular weight of 12,695 was obtained. Further, to this solution, poor solvents BCS and NMP were added so that the polyamic acid concentration would be 5 mass % and the BCS concentration would be 20 mass % to prepare a liquid crystal aligning agent.

reactant | PMDA | 0.096 mol, 20.94 g | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | 4-ABA | 0.09 mol, 11.00 g | C1=CC=C2C=C3C=C(C=CC3=CC2=C1)CCCC(=O)O | C18H16O2
solvent | NMP | 201 g | CN1CCCC1=O | C5H9NO
product | PMDA 4-ABA | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O.C1=CC=C2C=C3C=C(C=CC3=CC2=C1)CCCC(=O)O | InChI=1S/C18H16O2.C10H2O6/c19-18(20)7-3-4-13-8-9-16-11-14-5-1-2-6-15(14)12-17(16)10-13;11-7-3-1-4-6(10(14)16-8(4)12)2-5(3)9(13)15-7/h1-2,5-6,8-12H,3-4,7H2,(H,19,20);1-2H
